US05386002
9,9-Bis{4-(4-carboxy-phthalimido)phenyl}fluorene
To a stirred mixture of 9,9-bis(4-aminophenyl)fluorene (13.9 g, 40 mmol) and 80 ml of m-cresol was added 1,2,4-benzenetricarboxylic anhydride (16.1 g, 84 mmol) over two minutes. The resulting mixture was stirred under gentle reflux (163°-170° C.) for three hours and then at ambient temperature for 16 hours. A pale yellow precipitate was filtered, washed with methanol, washed with toluene, and then dried in a vacuum oven at 100°-105° C. for 16 hours to provide the title compound as a pale yellow powder (24.7 g, 88.7% yield) that had a melting point of 328°-331° C. and a 1H NMR spectrum (DMSO d6) corresponding to δ8.39 (d,2H), 8.29 (br s, 2H), 8.05 (d, 2H), 8.00 (d, 2H), 7.61 (d, 2H), and 7.40 (m, 12H).

reactant | 9,9-bis(4-aminophenyl)fluorene | 40 mmol, 13.9 g | NC1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)N | C25H20N2
reactant | 1,2,4-benzenetricarboxylic anhydride | 84 mmol, 16.1 g | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
solvent | m-cresol | 80 ml | C1=C(C=CC=C1O)C | C7H8O
product | 9,9-Bis{4-(4-carboxy-phthalimido)phenyl}fluorene | 24.7 g, 88.7% yield | C(=O)(O)C=1C=C2C(C(=O)N(C2=O)C2=CC=C(C=C2)C2(C3=CC=CC=C3C=3C=CC=CC23)C2=CC=C(C=C2)N2C(C=3C(C2=O)=CC(=CC3)C(=O)O)=O)=CC1 | C43H24N2O8
